US06492383B1
(2-{4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzylamino}-acetylamino)-acetic acid ethyl ester
The title compound was prepared from (2-amino-acetylamino)-acetic acid ethyl ester and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. M.P. 98-115° C.; LC-MS: 515 (MH+); HPLC RT: 3.88 minutes.

reactant | (2-amino-acetylamino)-acetic acid ethyl ester | C(C)OC(CNC(CN)=O)=O | C6H12N2O3
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
product | (2-{4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzylamino}-acetylamino)-acetic acid ethyl ester | C(C)OC(CNC(CNCC1=CC=C(C=C1)C1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1)=O)=O | C27H26N6O3S
